### PR TITLE
[Merged by Bors] - chore: missing CharP and CharZero instances for Matrix

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/CharP/Pi.lean [hunk 1]
```diff
@@ -14,9 +14,23 @@ public import Mathlib.Algebra.Ring.Pi
 
 public section
 
-
 universe u v
 
+section
+variable {ι : Type*} {α : ι → Type*}
+
+theorem CharZero.pi (i : ι) [∀ i, AddMonoidWithOne (α i)] [CharZero (α i)] :
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Pi.lean]: you're already using `Π`, so may as well also have that in the hypotheses
```suggestion
theorem CharZero.pi (i : ι) [Π i, AddMonoidWithOne (α i)] [CharZero (α i)] :
```

File: Mathlib/Algebra/CharP/Pi.lean [hunk 2]
```diff
@@ -14,9 +14,23 @@ public import Mathlib.Algebra.Ring.Pi
...
+    CharZero (Π i, α i) where
+  cast_injective _ _ h := Nat.cast_injective <| congrFun h i
+
+/-- Strictly this only needs any one component to be char-zero, but this is awkward to express. -/
+instance Pi.instCharZero [Nonempty ι] [∀ i, AddMonoidWithOne (α i)] [∀ i, CharZero (α i)] :
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Pi.lean]:
```suggestion
instance Pi.instCharZero [Nonempty ι] [Π i, AddMonoidWithOne (α i)] [Π i, CharZero (α i)] :
```

File: Mathlib/Algebra/CharP/Matrix.lean [hunk 3]
```diff
@@ -0,0 +1,40 @@
...
+namespace Matrix
+variable {m R : Type*}
+
+theorem instCharZero [Nonempty m] [DecidableEq m] [AddMonoidWithOne R] [CharZero R] :
+    CharZero (Matrix m m R) where
+  cast_injective _ _ h := by
+    inhabit m
+    have := congrFun₂ h default default
+    simp_rw [Matrix.natCast_apply, ite_true] at this
+    exact Nat.cast_injective this
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Matrix.lean]:
```suggestion
    simpa [natCast_apply] using congr($h default default)
```

File: Mathlib/Algebra/CharP/Matrix.lean [hunk 4]
```diff
@@ -0,0 +1,40 @@
...
+
+theorem instCharP {p} [Nonempty m] [DecidableEq m] [AddMonoidWithOne R] [CharP R p] :
+    CharP (Matrix m m R) p where
+  cast_eq_zero_iff n := by
+    inhabit m
+    simp_rw [← Matrix.ext_iff, Matrix.natCast_apply, ← CharP.cast_eq_zero_iff (R := R)]
+    constructor
+    · intro h
+      simpa using h default default
+    · simp
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Matrix.lean]:
```suggestion
    simp [← ext_iff, natCast_apply, ← CharP.cast_eq_zero_iff (R := R)]
```

File: Mathlib/Algebra/CharP/Matrix.lean [hunk 5]
```diff
@@ -0,0 +1,40 @@
...
+public import Mathlib.Algebra.CharP.Pi
+public import Mathlib.Data.Matrix.Basic
+
+/-!
+# Characteristic of matrices
+-/
+
+@[expose] public section
+
+universe u v
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Matrix.lean]: this seems unused?

File: Mathlib/Algebra/CharP/Matrix.lean [hunk 6]
```diff
@@ -0,0 +1,40 @@
...
+theorem instCharZero [Nonempty m] [DecidableEq m] [AddMonoidWithOne R] [CharZero R] :
+    CharZero (Matrix m m R) where
+  cast_injective _ _ h := by
+    inhabit m
+    have := congrFun₂ h default default
+    simp_rw [Matrix.natCast_apply, ite_true] at this
+    exact Nat.cast_injective this
+
+theorem instCharP {p} [Nonempty m] [DecidableEq m] [AddMonoidWithOne R] [CharP R p] :
+    CharP (Matrix m m R) p where
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Matrix.lean]: this already exists as an instance: [Matrix.charP](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/CharP.html#Matrix.charP)

Comment (eric-wieser) [reply Mathlib/Algebra/CharP/Matrix.lean]: Nice catch, thanks!

File: Mathlib/Algebra/CharP/Pi.lean [hunk 7]
```diff
@@ -14,25 +14,31 @@ public import Mathlib.Algebra.Ring.Pi
...
+variable {ι : Type*} {α : ι → Type*}
 
-universe u v
+theorem CharZero.pi (i : ι) [Π i, AddMonoidWithOne (α i)] [CharZero (α i)] :
+    CharZero (Π i, α i) where
+  cast_injective _ _ h := Nat.cast_injective <| congrFun h i
 
-namespace CharP
+/-- Strictly this only needs any one component to be char-zero, but this is awkward to express. -/
+instance Pi.instCharZero [Nonempty ι] [Π i, AddMonoidWithOne (α i)] [Π i, CharZero (α i)] :
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Pi.lean]: oh sorry, this is a prop, so should be
```suggestion
instance Pi.instCharZero [Nonempty ι] [Π i, AddMonoidWithOne (α i)] [∀ i, CharZero (α i)] :
```

File: Mathlib/Algebra/CharP/Pi.lean [hunk 8]
```diff
@@ -14,25 +14,31 @@ public import Mathlib.Algebra.Ring.Pi
...
-instance pi' (ι : Type u) [Nonempty ι] (R : Type v) [CommRing R] (p : ℕ) [CharP R p] :
-    CharP (ι → R) p :=
-  CharP.pi ι R p
+section
+variable {ι : Type*} {R : Type*} [Nonempty ι] [AddMonoidWithOne R]
 
-end CharP
+instance Pi.instCharP (p : ℕ) [CharP R p] : CharP (ι → R) p where
+  cast_eq_zero_iff x := by
+    inhabit ι
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Pi.lean]:
```suggestion
```

File: Mathlib/Algebra/CharP/Pi.lean [hunk 9]
```diff
@@ -14,25 +14,30 @@ public import Mathlib.Algebra.Ring.Pi
...
-instance pi' (ι : Type u) [Nonempty ι] (R : Type v) [CommRing R] (p : ℕ) [CharP R p] :
-    CharP (ι → R) p :=
-  CharP.pi ι R p
+section
+variable {ι : Type*} {R : Type*} [Nonempty ι] [AddMonoidWithOne R]
 
-end CharP
+instance Pi.instCharP (p : ℕ) [CharP R p] : CharP (ι → R) p where
+  cast_eq_zero_iff x := by
+    simp [← CharP.cast_eq_zero_iff R p x, funext_iff]
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Pi.lean]: why not generalize this to

```lean
instance Pi.instCharP [Nonempty ι] [Π i, AddMonoidWithOne (α i)] (p : ℕ) [∀ i, CharP (α i) p] :
    CharP (Π i, α i) p where
  cast_eq_zero_iff x := by simp [funext_iff, CharP.cast_eq_zero_iff _ p x]
```

File: Mathlib/Algebra/CharP/Defs.lean [hunk 10]
```diff
@@ -325,13 +325,21 @@ section AddMonoidWithOne
...
 
 instance expChar_prime (p) [CharP R p] [Fact p.Prime] : ExpChar R p := ExpChar.prime Fact.out
 instance expChar_one [CharZero R] : ExpChar R 1 := ExpChar.zero
 
+@[simp]
+lemma expChar_one_iff : ExpChar R 1 ↔ CharZero R := by simp [expChar_iff, Nat.not_prime_one]
+
+@[simp]
+lemma expChar_prime_iff {p} (hp : p.Prime) : ExpChar R p ↔ CharP R p :=
+  by simp [expChar_iff, hp.ne_one, hp]
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Defs.lean]:
```suggestion
lemma expChar_prime_iff {p} (hp : p.Prime) : ExpChar R p ↔ CharP R p := by
  simp [expChar_iff, hp.ne_one, hp]
```

File: Mathlib/Algebra/CharP/Defs.lean
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Defs.lean]: The proof of this can now just be `(expChar_one_iff _).mp hq`

File: Mathlib/Algebra/CharP/Pi.lean [hunk 11]
```diff
@@ -14,25 +14,33 @@ public import Mathlib.Algebra.Ring.Pi
...
+instance Pi.instCharZero [Π i, AddMonoidWithOne (α i)] [∀ i, CharZero (α i)] :
+    CharZero (Π i, α i) := by
+  inhabit ι
+  exact CharZero.pi default
+
+instance Pi.instCharP [Π i, AddMonoidWithOne (α i)] (p : ℕ) [∀ i, CharP (α i) p] :
+    CharP (Π i, α i) p where
+  cast_eq_zero_iff x := by simp [funext_iff, CharP.cast_eq_zero_iff _ p x]
+
+instance Pi.instExpChar [Π i, AddMonoidWithOne (α i)] (p : ℕ) [∀ i, ExpChar (α i) p] :
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Pi.lean:36]: how about the following instead of `rename_i inst`?
```suggestion
instance Pi.instExpChar [Π i, AddMonoidWithOne (α i)] (p : ℕ) [h : ∀ i, ExpChar (α i) p] :
```

File: Mathlib/Algebra/CharP/Pi.lean [hunk 12]
```diff
@@ -14,25 +14,33 @@ public import Mathlib.Algebra.Ring.Pi
...
-      (CharP.cast_eq_zero_iff R p x).symm.trans
-        ⟨fun h =>
-          funext fun j =>
-            show Pi.evalRingHom (fun _ => R) j (↑x : ι → R) = 0 by rw [map_natCast, h],
-          fun h ↦ by rw [← map_natCast (Pi.evalRingHom (fun _ : ι => R) i) x, h, map_zero]⟩⟩
-
--- diamonds
-instance pi' (ι : Type u) [Nonempty ι] (R : Type v) [CommRing R] (p : ℕ) [CharP R p] :
-    CharP (ι → R) p :=
-  CharP.pi ι R p
```
Comment (themathqueen) [inline Mathlib/Algebra/CharP/Pi.lean:36]: Is the "diamonds" comment outdated?

File: Mathlib/Algebra/CharP/Pi.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Algebra/CharP/Pi.lean:36]: This is not-so-standard and we-are-trying-to-avoid-it

File: Mathlib/Algebra/CharP/Pi.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/CharP/Pi.lean:36]: This looks like one of the many comments dating back from the Lean 3 days of the form "We need to duplicate this instance for obscure reasons"

File: Mathlib/Algebra/CharP/Pi.lean [hunk 13]
```diff
@@ -14,25 +14,33 @@ public import Mathlib.Algebra.Ring.Pi
...
-
-end CharP
+section
+variable {ι : Type*} {α : ι → Type*}
+
+theorem CharZero.pi (i : ι) [Π i, AddMonoidWithOne (α i)] [CharZero (α i)] :
+    CharZero (Π i, α i) where
+  cast_injective _ _ h := Nat.cast_injective <| congrFun h i
```
Comment (YaelDillies) [inline Mathlib/Algebra/CharP/Pi.lean]:
```suggestion
  cast_injective _ _ h := Nat.cast_injective congr($h i)
```
See #43408

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Algebra/CharP/Pi.lean (hunk 11 above)
Comment (Vierkantor) [reply Mathlib/Algebra/CharP/Pi.lean:36]: I have been naming instances and avoiding `rename_i` (and generally all renaming of variables). I'm not going to block this PR over it but was that style choice discussed somewhere and the outcome written down?

**Review by Vierkantor — APPROVED** [review]
LGTM apart from the `rename_i` style choice. Thanks!

bors d+

File: Mathlib/Algebra/CharP/Pi.lean (hunk 11 above)
Comment (eric-wieser) [reply Mathlib/Algebra/CharP/Pi.lean:36]: Here's the argument; naming instance arguments forms part of the public interface of a theorem; it affects the public olean, and allows callers to write `foo (h := ...)` which seems like a choice that shouldn't be made as part of the proof.

I can switch this to use `‹∀ i, ExpChar (α i) p›` if you'd prefer?

Comment (eric-wieser) [reply Mathlib/Algebra/CharP/Pi.lean:36]: I eliminated it a different way

**Comment by eric-wieser** [comment]
bors merge
